US07501430B2
13e: Preparation of 4-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[(3R)-piperidin-3-yl]pyrimidin-2-amine hydrochloride
The tert-butyl (3R)-3-({4-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-yl}amino)piperidine-1-carboxylate (2.90 g, 5.79 mmol) was dissolved in 20 mL of ethyl acetate and treated with 30 mL of 3.0 M HCl in ethyl acetate at room temperature (RT) overnight. Solid product was filtered, washed with ethyl acetate and dried under vacuum overnight to provide the title compound as a yellow solid. It was used without further purification. LCMS: 402 [M+H].

reactant | tert-butyl (3R)-3-({4-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]pyrimidin-2-yl}amino)piperidine-1-carboxylate | 5.79 mmol, 2.90 g | C(#N)C=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)N[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C26H27N7O2S
reactant | HCl | 3.0 M, 30 mL | Cl | ClH
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | 4-[6-(3-cyanophenyl)imidazo[2,1-b][1,3]thiazol-5-yl]-N-[(3R)-piperidin-3-yl]pyrimidin-2-amine hydrochloride | Cl.C(#N)C=1C=C(C=CC1)C=1N=C2SC=CN2C1C1=NC(=NC=C1)N[C@H]1CNCCC1 | InChI=1S/C21H19N7S.ClH/c22-12-14-3-1-4-15(11-14)18-19(28-9-10-29-21(28)27-18)17-6-8-24-20(26-17)25-16-5-2-7-23-13-16;/h1,3-4,6,8-11,16,23H,2,5,7,13H2,(H,24,25,26);1H/t16-;/m1./s1
